US09388177B2
Ethyl [(5-chloropyridin-2-yl)carbamothioyl]carbamate
Ethoxycarbonylisothiocyanate (3.37 g) was added to a stirred solution of 2-amino-5-chloropyridine (3.0 g) in dioxane (100 mL). The mixture was stirred at r.t. for 14 h. The solvent was removed in vacuum. The solid was dissolved in dichloromethane and methanol (100:1), filtered and the solvent was removed in vacuum to give a solid that was recrystallized from ethyl acetate to give 4.4 g of the title compound.

reactant | Ethoxycarbonylisothiocyanate | 3.37 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 2-amino-5-chloropyridine | 3.0 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | Ethyl [(5-chloropyridin-2-yl)carbamothioyl]carbamate | 4.4 g | ClC=1C=CC(=NC1)NC(=S)NC(OCC)=O | C9H10ClN3O2S
